### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): define Mon_ by using Mon_Class

### PR DESCRIPTION
**Pull request by yuma-mizuno**
The main change is from
```lean
structure Mon_ where
  X : C
  one : 𝟙_ C ⟶ X
  mul : X ⊗ X ⟶ X
  one_mul : (one ▷ X) ≫ mul = (λ_ X).hom := by aesop_cat
  mul_one : (X ◁ one) ≫ mul = (ρ_ X).hom := by aesop_cat
  mul_assoc : (mul ▷ X) ≫ mul = (α_ X X X).hom ≫ (X ◁ mul) ≫ mul := by aesop_cat
```
to
```lean
structure Mon_ where
  X : C
  [mon : Mon_Class X]
```

- [ ] depends on: #24597

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/Monoidal/CommGrp_.lean [hunk 1]
```diff
@@ -166,10 +179,32 @@ objects. -/
...
   map f := F.mapMon.map f
+  map_id X := show F.mapMon.map (𝟙 X.toGrp_.toMon_) = _ by aesop_cat
+
+@[simp]
+theorem mapCommGrp_id_one (A : CommGrp_ C) :
+    η[((𝟭 C).mapCommGrp.obj A).X] = 𝟙 _ ≫ η[A.X] :=
+  rfl
+
+@[simp]
+theorem maCommpGrp_id_mul (A : CommGrp_ C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/CommGrp_.lean]:
```suggestion
theorem mapCommpGrp_id_mul (A : CommGrp_ C) :
```

**Comment by joelriou** [comment]
Thanks!

bors d+
